US04666902
6-(4-(2-Methoxyethoxy)-phenyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one
13.7 g (0.052 mol) of 4-(4-(2-methoxyethoxy)-phenyl-carbonyl)-γ-butyrolactone are reacted with 2.8 g (0.056 mol) of hydrazine hydrate in 80 ml of ethanol as described above.

reactant | 4-(4-(2-methoxyethoxy)-phenyl-carbonyl)-γ-butyrolactone | 0.052 mol, 13.7 g | COCCOC1=CC=C(C=C1)C(=O)C1CCC(=O)O1 | C14H16O5
reactant | hydrazine hydrate | 0.056 mol, 2.8 g | O.NN
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 6-(4-(2-Methoxyethoxy)-phenyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one | COCCOC1=CC=C(C=C1)C=1C(CC(NN1)=O)CO | C14H18N2O4
